US05114953
Preparation of N-(cis-2-carboxy-cyclohexylcarbonyl)-L-tryptophan methylamide 35
To a mixture of 0.281 g (1.82 mmol) of cis-1,2-cyclohexanedicarboxylic anhydride and 0.47 g of the hydrochloride salt of L-Trp-NHMe in 0.5 mL of dimethylformamide 0.51 mL of triethylamine was added at room temperature. After 2 hr of stirring the resulting mixture was diluted to 10 mL with water and 25 mL of ethyl acetate was added. The resulting mixture was acidified to pH = 2 with 10% potassium bisulfate and the organic phase was washed with water (2 × 5 ml), saturated sodium chloride and dried over anhydrous magnesium sulfate and evaporated to dryness. The title compound 35 was purified by crystallization from an ethyl acetate-hexane mixture. Yield 48%; mp = 105°-112° C.; Rf (G) = 0.65, 0.61.

reactant | cis-1,2-cyclohexanedicarboxylic anhydride | 1.82 mmol, 0.281 g | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | L-Trp-NHMe | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NC | C12H15N3O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | potassium bisulfate | S([O-])(O)(=O)=O.[K+]
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | N-(cis-2-carboxy-cyclohexylcarbonyl)-L-tryptophan methylamide | Yield 48% | CNC([C@@H](NC(=O)[C@H]1[C@H](CCCC1)C(=O)O)CC1=CNC2=CC=CC=C12)=O | C20H25N3O4
